US03984465
[1-Oxo-2-(2-chloroallyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid is prepared following substantially the same procedure described in Example 4, Step D, using the following reagents: 2-(2-chloroallyl)-2-methyl-5-hydroxy-6,7-dichloro-1-indanone (4.8 g., 0.0157 mole), potassium carbonate (6.0 g.), ethyl bromoacetate (4.5 ml.) and DMF (55 ml.). The above procedure gives 2.7 g. (48%) of [1-oxo-2-(2-chloroallyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid which after recrystallization from butyl chloride melts at 160°-162°C.

reactant | 2-(2-chloroallyl)-2-methyl-5-hydroxy-6,7-dichloro-1-indanone | 0.0157 mole, 4.8 g | ClC(CC1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C)=C | C13H11Cl3O2
reactant | potassium carbonate | 6.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 4.5 ml | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 55 ml | CN(C)C=O | C3H7NO
product | [1-Oxo-2-(2-chloroallyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)CC(=C)Cl | C15H13Cl3O4
